US05486514
2-Amino-4-chlorodiphenylamine
Potassium carbonate (13 g) and sodium hydrosulphite (11.4 g) were added portionwise over 3 hour to a suspension of 4-chloro-2-nitrodiphenylamine (3.6 g) in 95% ethanol (100 ml) and water (100 ml). The mixture was stirred at 23° for 20 h. The reaction mixture was then acidified to pH=4 with conc. hydrochloric acid (20 ml); then 1.0% solution of sodium hydroxide (80 ml) was added until pH=10 and the solution extracted with ethyl acetate (2×150 ml). The combined organic extracts were washed with brine (2×150 ml), dried and concentrated in vacuo to give the crude compound as a yellow solid (7.8 g) which was purified by flash chromatography (eluting with CH-EA 90:10 then 70:30) to give the title compound as a yellow foam (2.37 g). T.l.c. CH-EA (1:1), Rf 0.66.

reactant | Potassium carbonate | 13 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydrosulphite | 11.4 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 4-chloro-2-nitrodiphenylamine | 3.6 g | C1=CC=C(C=C1)NC2=C(C=C(C=C2)Cl)[N+](=O)[O-] | C12H9ClN2O2
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | sodium hydroxide | 80 ml | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 2-Amino-4-chlorodiphenylamine | 2.37 g | C1=CC=C(C=C1)NC2=C(C=C(C=C2)Cl)N | C12H11ClN2
